US04634660
1-(3-Methoxyphenyl)-5-mercaptotetrazole was reacted with boron tribromide in methylene chloride to produce 1-(3-hydroxyphenyl)-5-mercaptotetrazole. Colorless Crystal. m.p. 176°-178° C.

reactant | 1-(3-Methoxyphenyl)-5-mercaptotetrazole | COC=1C=C(C=CC1)N1N=NN=C1S | C8H8N4OS
reactant | boron tribromide | B(Br)(Br)Br | BBr3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-(3-hydroxyphenyl)-5-mercaptotetrazole | OC=1C=C(C=CC1)N1N=NN=C1S | C7H6N4OS
